US09302991B2
<Step-2>:methyl 5-(bromomethyl)-6-(2,2,2-trifluoroethoxy)nicotinate
A mixture of N-bromosuccinimide (464 mg, 2.61 mmol), 2,2′-azobis(2-methylpropionitrile) (16 mg, 0.10 mmol) and methyl 5-methyl-6-(2,2,2-trifluoroethoxy)nicotinate (500 mg, 2.01 mmol, Step-1) in dichloroethane (10 mL) is stirred at 85° C. for 4 hours. After cooling to room temperature, the reaction mixture is poured into water extracted with dichloroethane and dried over sodium sulfate and concentrated in vacuo. The residue is purified by column chromatography on silica gel eluting with n-Hexane/ethyl acetate (10:1) to give 658 mg (>99% yield) of the title compound as colorless oil.

reactant | N-bromosuccinimide | 2.61 mmol, 464 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | methyl 5-methyl-6-(2,2,2-trifluoroethoxy)nicotinate | 2.01 mmol, 500 mg | CC=1C(=NC=C(C(=O)OC)C1)OCC(F)(F)F | C10H10F3NO3
reactant | water | O | H2O
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
catalyst | 2,2′-azobis(2-methylpropionitrile) | 0.10 mmol, 16 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | methyl 5-(bromomethyl)-6-(2,2,2-trifluoroethoxy)nicotinate | 658 mg, >99% yield | BrCC=1C(=NC=C(C(=O)OC)C1)OCC(F)(F)F | C10H9BrF3NO3
